US08003796B2
Step B. Preparation of 1-(4-(methylsulfonyl)phenyl)-4-(1-(5-(prop-1-en-2-yl)pyrimidin-2-yl)piperidin-4-yloxy)pyridin-2(1H)-one
A mixture of 4-(1-(5-bromopyrimidin-2-yl)piperidin-4-yloxy)-1-(4-(methylsulfonyl)phenyl)pyridin-2(1H)-one (103 mg, 0.20 mmol), potassium carbonate (140 mg, 1.02 mmol, EMD) and prop-1-en-2-ylboronic acid (52.4 mg, 0.610 mmol) in DMF (1.8 mL) and Water (0.2 mL) was degassed by vacuum and purged with Argon. To the resulting mixture was added 1,1′-Bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichloromethane complex (16.72 mg, 0.020 mmol, Aldrich) and then heated under microwave conditions at 120° C. for 20 min. The reaction mixture was concentrated in vacuo to a brown solid. The solid was purified by flash chromatography (SiO2, 0 to 100% EtOAc in hexanes) to yield 25 mg of desired product as a light yellow solid. MS (ESI) 467 (M+H).

reactant | 4-(1-(5-bromopyrimidin-2-yl)piperidin-4-yloxy)-1-(4-(methylsulfonyl)phenyl)pyridin-2(1H)-one | 0.20 mmol, 103 mg | BrC=1C=NC(=NC1)N1CCC(CC1)OC1=CC(N(C=C1)C1=CC=C(C=C1)S(=O)(=O)C)=O | C21H21BrN4O4S
reactant | potassium carbonate | 1.02 mmol, 140 mg | C([O-])([O-])=O.[K+].[K+]
reactant | prop-1-en-2-ylboronic acid | 0.610 mmol, 52.4 mg | C=C(C)B(O)O | C3H7BO2
solvent | DMF | 1.8 mL | CN(C)C=O | C3H7NO
solvent | Water | 0.2 mL | O | H2O
product | 1-(4-(methylsulfonyl)phenyl)-4-(1-(5-(prop-1-en-2-yl)pyrimidin-2-yl)piperidin-4-yloxy)pyridin-2(1H)-one | 25 mg | CS(=O)(=O)C1=CC=C(C=C1)N1C(C=C(C=C1)OC1CCN(CC1)C1=NC=C(C=N1)C(=C)C)=O | C24H26N4O4S
